US06413995B1
100 mg of ethyl [4-[1-phenyl-2-[N-(3-pyridylmethyl)carbamoyl]ethenyl]phenoxy]acetate was mixed with 66 mg of potassium carbonate and 10 ml of 50% aqueous methanol, and then refluxed for 2 hours. The reaction mixture was adjusted to pH 6 with 3 mol/l hydrochloric acid, extracted with ethyl acetate, washed twice with water and once with brine, followed by drying over anhydrous magnesium sulfate. The drying agent was filtered off and the solvent was evaporated to give crude crystals (100 mg), which were then recrystallized from ethyl acetate to provide [4-[1-phenyl-2-[-(3-pyridylmethyl)carbamoyl]ethenyl]phenoxy]acetic acid (80 mg, yield: 86.7%) as a white solid.

reactant | ethyl [4-[1-phenyl-2-[N-(3-pyridylmethyl)carbamoyl]ethenyl]phenoxy]acetate | 100 mg | C1(=CC=CC=C1)C(=CC(NCC=1C=NC=CC1)=O)C1=CC=C(OCC(=O)OCC)C=C1 | C25H24N2O4
reactant | potassium carbonate | 66 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 3 mol/l | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | [4-[1-phenyl-2-[-(3-pyridylmethyl)carbamoyl]ethenyl]phenoxy]acetic acid | 80 mg, yield: 86.7% | C1(=CC=CC=C1)C(=CC(NCC=1C=NC=CC1)=O)C1=CC=C(OCC(=O)O)C=C1 | C23H20N2O4
